US06987114B1
1-(Acetonyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione
5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione and chloroacetone were reacted by the same way with the example 1 to obtain the titled compound (155 mg, yield: 45%).

reactant | 5-Isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | C(C)(C)C=1C(NC(NC1OC1=CC(=CC(=C1)C)C)=O)=O | C15H18N2O3
reactant | chloroacetone | ClCC(C)=O | C3H5ClO
product | 1-(Acetonyl)-5-isopropyl-6-(3,5-dimethylphenoxy)-2,4-pyrimidinedione | 155 mg, yield: 45% | C(C(=O)C)N1C(NC(C(=C1OC1=CC(=CC(=C1)C)C)C(C)C)=O)=O | C18H22N2O4
